US05100913
I c) Preparation of 4-(phenylsulfonyl)phenyl 1,5-dithio-β-D-xylopyranoside (Example 2)
A solution of 0.35 cm3 of sodium methylate in methanol (3.5 molar) is added to a suspension of 6.5 g of 4-(phenylsulfonyl)phenyl 2,3,4-tri-O-acetyl-1,5-dithio-β-D-xylopyranoside in 150 ml of methanol. The mixture obtained is stirred at room temperature for 1.5 h under nitrogen and 250 cm3 of tetrahydrofuran are then added. A clear solution is obtained, after which Amberlite® IR 120 H+ resin is added to pH 6. The mixture is filtered and the solvents are evaporated off under reduced pressure. After recrystallization from a methanol/water mixture (50/50 v/v), followed by dissolution in an ethanol/water mixture (50/50 v/v) and lyophilization, 3.3 g of the expected product (yield: 67%) are obtained.

reactant | sodium methylate | 0.35 cm3 | C[O-].[Na+]
reactant | 4-(phenylsulfonyl)phenyl 2,3,4-tri-O-acetyl-1,5-dithio-β-D-xylopyranoside | 6.5 g | C(C)(=O)O[C@H]1[C@H](SC2=CC=C(C=C2)S(=O)(=O)C2=CC=CC=C2)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C23H24O8S3
reactant | tetrahydrofuran | 250 cm3 | O1CCCC1 | C4H8O
solvent | methanol | 3.5 molar | CO | CH4O
solvent | methanol | 150 ml | CO | CH4O
solvent | ethanol water | C(C)O.O
product | 4-(phenylsulfonyl)phenyl 1,5-dithio-β-D-xylopyranoside | 3.3 g, yield: 67% | S([C@H]1[C@H](O)[C@@H](O)[C@H](O)CS1)C1=CC=C(C=C1)S(=O)(=O)C1=CC=CC=C1 | C17H18O5S3
